US04529698
(D) (S)-(trans)-3-Amino-4-ethynyl-2-oxo-1-azetidinesulfonic acid
(S)-(trans)-4-ethynyl-2-oxo-3-[(triphenylmethyl)amino]azetidine (404 mg) and 560 mg of a complex of pyridine and sulfur trioxide are added to a 25 ml flask. After the flask is flushed with nitrogen, 4.0 ml of dry pyridine is added and the mixture is heated at 80°-85° C. for 3 hours. The mixture is added to a rapidly stirred mixture of 4.0 ml of concentrated hydrochloric acid, 50 ml of water, and 50 ml of ethyl acetate. The pH is adjusted to 3.15 with sodium carbonate. The water layer is separated and extracted once with ethyl acetate. The combined organic layer is washed once with saturated aqueous sodium chloride, dried over sodium sulfate and filtered. Solvent removal in vacuo gives a foam which is taken up in 10 ml of dichloromethane. Formic acid (98%, 8 ml) is added, and after 15 minutes the mixture is concentrated to 4 ml and 10 ml of dichloromethane is added to give a solid suspended in solution. Filtration gives 100 mg of the title compound as a solid (obvious discoloration with melting >180° C.).

reactant | (S)-(trans)-4-ethynyl-2-oxo-3-[(triphenylmethyl)amino]azetidine | 404 mg | C(#C)[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | sulfur trioxide | S(=O)(=O)=O | O3S
reactant | Formic acid | 8 ml | C(=O)O | CH2O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-(trans)-3-Amino-4-ethynyl-2-oxo-1-azetidinesulfonic acid | 100 mg | N[C@@H]1C(N([C@H]1C#C)S(=O)(=O)O)=O | C5H6N2O4S
